US04000151
In the manner given in Example 1, 6-(trifluoromethyl)-2-chloro-4-(o-chlorophenyl)quinoline is reacted at reflux with hydrazine hydrate to give 6-(trifluoromethyl)-4-(o-chlorophenyl)-2-hydrazinoquinoline.

reactant | 6-(trifluoromethyl)-2-chloro-4-(o-chlorophenyl)quinoline | FC(C=1C=C2C(=CC(=NC2=CC1)Cl)C1=C(C=CC=C1)Cl)(F)F | C16H8Cl2F3N
reactant | hydrazine hydrate | O.NN
product | 6-(trifluoromethyl)-4-(o-chlorophenyl)-2-hydrazinoquinoline | FC(C=1C=C2C(=CC(=NC2=CC1)NN)C1=C(C=CC=C1)Cl)(F)F | C16H11ClF3N3
